US07338960B2
2-(1-Chloropentyl)-6-[4-(trifluoromethyl)phenyl]pyridine
To a solution of 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol (1.50 g, 4.85 mmol) in dry DCM was added SOCl2 (3.53 mL, 48.50 mmol), and the resulting solution stirred under nitrogen for 3 hours at rt. The mixture was then reduced under vacuum to afford the title compound as an oily yellow solid (1.65 g).

reactant | 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 4.85 mmol, 1.50 g | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)O)(F)F | C17H18F3NO
reactant | SOCl2 | 48.50 mmol, 3.53 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(1-Chloropentyl)-6-[4-(trifluoromethyl)phenyl]pyridine | 1.65 g | ClC(CCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C17H17ClF3N
